* Schematics Netlist *



V_V1         $N_0001 0 15V
R_R1         $N_0001 $N_0002  100  
R_R2         $N_0002 $N_0003  100  
R_R3         $N_0002 $N_0003  100  
R_R4         $N_0003 0  220  
