* Schematics Netlist *



R_R1         S $N_0001  1k  
V_V2         $N_0002 0 5V
V_V1         $N_0001 0 5V
D_D1         S $N_0002 D1N4148 
D_D2         S 0 D1N4148 
