* Schematics Netlist *



D_D2         0 Vs D1N4148 
D_D1         Vs $N_0001 D1N4148 
V_V2         $N_0001 0 5V
R_R1         $N_0002 Vs  1k  
V_V3         $N_0002 0  
+SIN 0V 10V 1kHz 0 0 0
