* Schematics Netlist *



R_R1         Vs $N_0001  1k  
R_R2         $N_0003 $N_0002  220k  
V_V1         $N_0001 0 5V
Q_Q1         Vs $N_0002 0 QbreakN 
V_V2         $N_0003 0 5V
